US04350812
cis-2,2'-[[5-[3-[(1,1-Dimethylethyl)amino]-2-hydroxypropoxy]-1,2,3,4-tetrahydro-2,3 -naphthalenediyl]bis(oxy)]bis[N,N-dipropylacetamide]
A solution of 1.5 g (0.0029 M) of cis-2,2'-[[1,2,3,4-tetrahydro-5-(oxiranyl-methoxy)-2,3-naphthalenediyl]bis(oxy)]bis-[N,N-dipropylacetamide] in 5 ml of methanol and 20 ml of t-butylamine is stirred at room temperature overnight. The solution is evaporated in vacuo to give 1.7 g of oil. This material is dissolved in ether and extracted with 5% aqueous HCl. The aqueous layer is basified with aqueous NaOH and extracted with ether. The ether is washed (saturated NaCl solution), dried (Na2SO4), filtered and evaporated in vacuo to give the title compound as a dense oil, 1.52 g.

reactant | cis-2,2'-[[1,2,3,4-tetrahydro-5-(oxiranyl-methoxy)-2,3-naphthalenediyl]bis(oxy)]bis-[N,N-dipropylacetamide] | 0.0029 M, 1.5 g | O1C(C1)COC1=C2C[C@@H]([C@@H](CC2=CC=C1)OCC(=O)N(CCC)CCC)OCC(=O)N(CCC)CCC | C29H46N2O6
reactant | t-butylamine | 20 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 5 ml | CO | CH4O
product | cis-2,2'-[[5-[3-[(1,1-Dimethylethyl)amino]-2-hydroxypropoxy]-1,2,3,4-tetrahydro-2,3 -naphthalenediyl]bis(oxy)]bis[N,N-dipropylacetamide] | 1.7 g | CC(C)(C)NCC(COC1=C2C[C@@H]([C@@H](CC2=CC=C1)OCC(=O)N(CCC)CCC)OCC(=O)N(CCC)CCC)O | C33H57N3O6
